US05932601
In substantially the same manner as in Working Example 11, 3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]cinnamaldehyde was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[3-[3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propyl]-2,4-oxazolidinedione.

reactant | 3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]cinnamaldehyde | COC=1C=C(C=CC=O)C=CC1OC(C)C=1N=C(OC1C)C1=CC=CC=C1 | C22H21NO4
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[3-[3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OC(C)C=1N=C(OC1C)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C25H26N2O6
